US08026366B2
To a round bottom flask containing 7-benzyloxy-2-ethylthiazolo[4,5-c]quinolin-4-amine (11.3 g, 33.7 mmol) was added a 45 wt. % solution of hydrogen bromide in acetic acid (40 mL). The resulting solution was heated at 65° C. for 2 hours and then cooled in an ice bath. Aqueous sodium hydroxide (50% w/w solution) was added slowly until pH 7 and a pale yellow/green solid formed. The solid was isolated by filtration and air dried to provide 8.4 g of 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol. MS (APCI) m/z=246.0.

reactant | 7-benzyloxy-2-ethylthiazolo[4,5-c]quinolin-4-amine | 33.7 mmol, 11.3 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C(=NC2C1)N)N=C(S3)CC | C19H17N3OS
reactant | hydrogen bromide | Br | BrH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 4-amino-2-ethylthiazolo[4,5-c]quinolin-7-ol | 8.4 g | NC1=NC=2C=C(C=CC2C2=C1N=C(S2)CC)O | C12H11N3OS
